US05665718
1.7 g (5 mmol) of 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one were stirred at room temperature for 2 hours with 5 ml (7.2 mmol) of cyclopropylamine and 15 ml of N,N-dimethylformamide. After evaporation of the reaction mixture the residue was taken up in methylene chloride and washed with aqueous ammonia. After drying the organic phase over magnesium sulfate, evaporation of the solvent and recrystallization of the residue from ethyl acetate and hexane there were obtained 1.17 g (65%) of 3-(5-cyclopropylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one of m.p. 176°-178°, which was converted into the hydrochloride.

reactant | 3-(5-chloromethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 5 mmol, 1.7 g | ClCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C15H11ClFN5O2
reactant | cyclopropylamine | 7.2 mmol, 5 ml | C1(CC1)N | C3H7N
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 3-(5-cyclopropylaminomethyl-1,2,4-oxadiazol-3-yl)-8-fluoro-5-methyl-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 1.17 g, 65% | C1(CC1)NCC1=NC(=NO1)C=1N=CN2C1CN(C(C1=C2C=CC(=C1)F)=O)C | C18H17FN6O2
